US07947730B2
Hydroxy-diphenyl-acetic acid 1-methyl-piperidin-4-ylmethyl ester
(1-Methyl-piperidin-4-yl)-methanol (2.58 g, 20 mmol) and hydroxy-diphenyl-acetic acid methyl ester (9.69 g, 40 mmol) are suspended in toluene (65 ml). Molecular sieve 4A (1 g) is added and the mixture is stirred at room temperature for 10 minutes. Sodium (0.08 g) is added and the reaction mixture stirred at 80° C. for 3 hours. Additional sodium (0.1 g) is then added and heating maintained at 80° C. for 18 hours. The reaction mixture is cooled to room temperature, solid filtered off, and washed with ethylacetate. The filtrate is washed once with saturated aqueous NaHCO3 solution (50 ml) and twice with aqueous HCl 1M (25 ml each). The combined acidic aqueous layers are basified with saturated aqueous NaHCO3 solution and solid NaHCO3, the resulting precipitate is removed by filtration, drying under vacuum gives the title product as a white solid (M+H)+:340.09.

reactant | (1-Methyl-piperidin-4-yl)-methanol | 20 mmol, 2.58 g | CN1CCC(CC1)CO | C7H15NO
reactant | hydroxy-diphenyl-acetic acid methyl ester | 40 mmol, 9.69 g | COC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C15H14O3
reactant | Sodium | 0.08 g | [Na] | Na
reactant | sodium | 0.1 g | [Na] | Na
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
product | Hydroxy-diphenyl-acetic acid 1-methyl-piperidin-4-ylmethyl ester | CN1CCC(CC1)COC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C21H25NO3
